Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Major Surgical or Invasive Procedure:
Intubation ___
EGD ___

attach
 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 09:15AM   WBC-9.4 RBC-3.42* HGB-9.7* HCT-29.6* MCV-87 
MCH-28.4 MCHC-32.8 RDW-17.2* RDWSD-54.3*
___ 09:15AM   NEUTS-82.5* LYMPHS-9.9* MONOS-6.9 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-7.72* AbsLymp-0.93* AbsMono-0.65 
AbsEos-0.00* AbsBaso-0.02
___ 09:15AM   ___ PTT-32.4 ___
___ 09:15AM   ALBUMIN-4.1 CALCIUM-10.2 PHOSPHATE-3.5 
MAGNESIUM-2.1
___ 09:15AM   ALT(SGPT)-33 AST(SGOT)-51* ALK PHOS-136* TOT 
BILI-1.7*
___ 09:15AM   GLUCOSE-269* UREA N-27* CREAT-0.9 SODIUM-135 
POTASSIUM-4.4 CHLORIDE-95* TOTAL CO2-21* ANION GAP-19*

DISCHARGE LABS
#ERROR!
___ 07:40AM BLOOD WBC-6.4 RBC-3.22* Hgb-9.2* Hct-28.5* 
MCV-89 MCH-28.6 MCHC-32.3 RDW-17.4* RDWSD-56.9* Plt ___
___ 07:40AM BLOOD Glucose-111* UreaN-16 Creat-0.6 Na-139 
K-4.1 Cl-99 HCO3-26 AnGap-14
___ 07:40AM BLOOD ALT-28 AST-46* AlkPhos-110* TotBili-1.2
___ 07:40AM BLOOD Calcium-8.7 Phos-3.1 Mg-1.6

MICRO
#ERROR!
Blood cultures x2 - NGTD

IMAGING
#ERROR!
CXR ___
Streaky opacities in the lung bases likely reflective of 
atelectasis, though aspiration is difficult to exclude in the 
correct clinical context.

EGD ___
- GAVE and portal hypertensive gastropathy
- no varices

 
 
Brief Hospital Course:
BRIEF HOSPITAL SUMMARY
#ERROR!
___ woman with a history of iron deficiency anemia, diabetes on 
metformin, and NASH cirrhosis child class B decompensated by 
ascites and previously with variceal bleed who presented with 
hematemesis and melena. She was intubated semi-electively for 
urgent EGD and admitted to the ICU. She was never 
hemodynamically unstable and did not require blood products. EGD 
revealed a non-bleeding poylp-like structure which is most 
likely source of bleeding. No varices were visualized. She was 
extubated on ___. She remained hemodynamically stable and 
had no further episodes of hematemesis or melena. She was 
monitored on the medical floor for 24 hours and then discharged 
home. 

TRANSITIONAL ISSUES
#ERROR!
[ ] Imaging that needs to be addressed by PCP or hepatology
- Imaging from ___:
1. Cirrhotic liver containing two new segment IV lesions, which 
measure 1.8 cm and 1.4 cm and demonstrate arterial enhancement 
and washout but no pseudocapsule. Though findings do not meet 
strict OPTN-5 criteria, they are highly suspicious for 
hepatocellular carcinoma. 
2. New 1.1 cm and 0.5 cm nonenhancing cystic lesions within the 
body of the pancreas are statistically side-branch IPMNs. These 
can be followed on subsequent surveillance studies. 
[ ] Patient needs to have EUS done as an outpatient with Dr. 
___ to further evaluate the gastric polyp that was 
seen on EGD. 
[ ] Patient requesting assistance from her PCP with setting up 
transportation for medical appointment in ___. 
[ ] Prior auth for her rifaximin has been approved but her copay 
is $900. ___ pharmacy will call the patient during the week to 
try and see if they can apply coupons to lower her copay. She 
has not been taking rifaxmin as an outpatient and has been 
managing her encephalopathy with lactulose only. Continue to try 
and assist patient to see if we can get her rifaximin at a 
reduced ___. 
[ ] Please repeat CBC at PCP ___ to ensure it is stable. 
[ ] Patient discharged with home ___ for strength training and 
___ for nursing assessment and medication teaching. 

DISCHARGE Hgb: 9.2

#CODE: full confirmed
#CONTACT: ___ (son) ___ 

ACTIVE ISSUES
#ERROR!
# Upper GI Bleed
# Melena, hemetemesis
EGD revealed nodular ulcerative GAVE versus gastric polyp as 
most likely source of bleeding. It was not bleeding. She 
received octreotide and PPI, never required pRBC transfusion. 
She was started on ceftriaxone which was transitioned to 
ciprofloxacin before d/c for 7 days for GIB in the setting of 
cirrhosis. 

# NASH Cirrhosis
Recent admission to ___ (about 2 months ago) with varices 
s/p banding, most recent EGD ___ did not reveal varices. 
Continued Ceftriaxone for SBP ppx and transitioned to ___ at 
the time of discharge to complete 7 day course for prophylaxis. 
Continued lactulose and rifaximin, however she has been unable 
to get rifaximin as an outpatient due to high copays. No 
encephalopathy while admitted. 

# Mild hypoxia, resolved 
New 2L oxygen requirement after extubation. Lung exam 
significant for diminished lung sounds at the bases, Most likely 
atelectasis given no leukocytosis, fever, or focal findings. 
Monitored closely until resolved. 

CHRONIC ISSUES
#ERROR!
# Iron deficiency anemia. Iron resumed at discharge. 

# Diabetes. Continued HISS while in house, held home metformin. 
Metformin resumed at discharged. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. rifAXIMin 550 mg PO BID 
2. Lactulose 40 mL PO DAILY 
3. Magnesium Oxide 400 mg PO BID 
4. Pravastatin 20 mg PO QPM 
5. Spironolactone 200 mg PO DAILY 
6. Pantoprazole 20 mg PO Q12H 
7. Furosemide 40 mg PO QAM 
8. Furosemide 20 mg PO QPM 
9. Vitron-C (iron,carbonyl-vitamin C) 65 mg iron- 125 mg oral 
EVERY OTHER DAY 
10. Multivitamins 1 TAB PO DAILY 
11. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO BID Duration: 4 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*7 Tablet Refills:*0 
2.  Furosemide 40 mg PO QAM  
3.  Furosemide 20 mg PO QPM  
4.  Lactulose 40 mL PO DAILY  
5.  Magnesium Oxide 400 mg PO BID  
6.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Pantoprazole 20 mg PO Q12H  
9.  Pravastatin 20 mg PO QPM  
10.  Spironolactone 200 mg PO DAILY  
11.  Vitron-C (iron,carbonyl-vitamin C) 65 mg iron- 125 mg oral 
EVERY OTHER DAY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary diagnoses
#ERROR!
Upper GI bleed
Gastric polyp
Acute on chronic blood loss anemia

Secondary diagnoses
#ERROR!
Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were vomiting 
blood. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You were admitted to the intensive care unit for close 
monitoring. You had a procedure called an endoscopy to look for 
bleeding. We saw a polyp in your stomach that was not bleeding. 
You will need to have a repeat endoscopy as an outpatient to 
further evaluate this
- Your blood counts were monitored and they were stable
- You were started on antibiotics to prevent infection in your 
abdomen which can happen after bleeding 
- You worked with physical therapy and did well but they 
recommended physical therapy at home which we were able to 
arrange for you at home. 
- You improved and were ready to leave the hospital.

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- Please complete all of the antibiotics you were prescribed. 
This is to prevent infection in your abdomen
- Please call your PCP to schedule ___ within one week 
of discharge 
- Take all of your medications as prescribed (listed below)
- Keep your follow up appointments with your doctors
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds
- Please stick to a low salt diet and monitor your fluid intake
- If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

It was a pleasure participating in your care. We wish you the 
best!
- Your ___ Care Team

 
Followup Instructions:
___